US05942511
Synthesis of 3-ethoxy-4,5-dimethyl-6-chloropyridazine
0.69 g(0.03 mol) of metallic sodium was dissolved in 100 ml of absolute ethanol and then 5.31 g(0.03 mol) of 3,6-dichloro-4,5-dimethylpyridazine was added thereto and completely dissolved. The reaction solution was stirred for 4 hours at room temperature and then treated according to the same manner as Preparation 5 to obtain the title compound as a pale white crystal.

reactant | sodium | 0.03 mol, 0.69 g | [Na] | Na
reactant | 3,6-dichloro-4,5-dimethylpyridazine | 0.03 mol, 5.31 g | ClC=1N=NC(=C(C1C)C)Cl | C6H6Cl2N2
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 3-ethoxy-4,5-dimethyl-6-chloropyridazine | C(C)OC=1N=NC(=C(C1C)C)Cl | C8H11ClN2O
